US04260776
120 g of 4-hydroxycoumarin in 600 ml of glacial acetic acid are heated to the boil and 380 ml of phosphorus oxychloride are added dropwise in the course of 60 minutes at the boil. The reaction mixture is heated to the boil under reflux for a further 30 minutes and is cooled and discharged into 4 l of ice-water. The crystalline residue is filtered off, washed with water and dried in vacuo at 50° C. 127 g of 3-acetyl-4-hydroxycoumarin are obtained.

reactant | 4-hydroxycoumarin | 120 g | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
reactant | phosphorus oxychloride | 380 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
product | 3-acetyl-4-hydroxycoumarin | 127 g | C(C)(=O)C=1C(OC2=CC=CC=C2C1O)=O | C11H8O4
